US06288120B1
To a solution of 4-butoxybenzonitrile (4.6 g, 26.25 mmol) in Et2O (50 mL) was added lithium aluminum hydride (1.0 M in THF, 26.2 mL, 26.2 mmol) dropwise. The reaction was heated at reflux for 1 h and was cooled to room temperature. The reaction was carefully poured into water (50 mL) and was diluted with Et2O. The solids were removed by filtration through Celite with the aid of Et2O. The organic solution was washed with water followed by brine, dried (MgSO4), filtered, and concentrated in vacuo to provide 4-butoxybenzylamine (2.68 g). 1H NMR (400 MHz, CDCl3) δ 7.16 (m, 2H), 6.82 (m, 2H), 3.91 (m, 2H), 3.75 (s, 2(m, 2H), 1.46 (m, 2H), 1.39 (m, 2H), 0.95 (t, 3H).

reactant | 4-butoxybenzonitrile | 26.25 mmol, 4.6 g | C(CCC)OC1=CC=C(C#N)C=C1 | C11H13NO
reactant | lithium aluminum hydride | 26.2 mmol, 1.0 M, 26.2 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 50 mL | O | H2O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 4-butoxybenzylamine | 2.68 g | C(CCC)OC1=CC=C(CN)C=C1 | C11H17NO
